US07786132B2
N-(2-(2-(2-(2-Oxoimidazolidin-1-yl)ethylamino)pyrimidin-4-yl)benzo[b]-thiophen-5-yl)acetamide
Acetyl chloride (61 mg, 0.78 mmol) was added to a mixture of 1-(2-(4-(5-aminobenzo[b]-thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one (230 mg, 0.65 mmol) and triethylamine (131 mg, 1.30 mmol) in dichloromethane (10 mL) at 0° C. and stirred at rt for 6 h. Water (50 mL) was added and the mixture was extracted with dichloromethane (3×50 mL). The combined organic layer was washed with brine (50 mL), dried over sodium sulfate and filtered. After removing the solvent in vacuo the product was purified by column chromatography eluting with methanol/dichloromethane (1:20) to give the title compound as a slightly yellow solid (39 mg, 15%). MS (M+H)+ 397.

reactant | Acetyl chloride | 0.78 mmol, 61 mg | C(C)(=O)Cl | C2H3ClO
reactant | 1-(2-(4-(5-aminobenzo[b]-thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one | 0.65 mmol, 230 mg | NC1=CC2=C(SC(=C2)C2=NC(=NC=C2)NCCN2C(NCC2)=O)C=C1 | C17H18N6OS
reactant | triethylamine | 1.30 mmol, 131 mg | C(C)N(CC)CC | C6H15N
reactant | Water | 50 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(2-(2-(2-(2-Oxoimidazolidin-1-yl)ethylamino)pyrimidin-4-yl)benzo[b]-thiophen-5-yl)acetamide | O=C1N(CCN1)CCNC1=NC=CC(=N1)C1=CC2=C(S1)C=CC(=C2)NC(C)=O | C19H20N6O2S
